US04912108
7,8,9,10-Tetrahydro-2,3-dihydroxy-6-nitrobenzo(f)quinoxaline
7,8,9,10-Tetrahydro-2,3-dihydroxybenzo (f) quinoxaline (0.43 g, 2 mmol) was dissolved in 5 ml of nitric acid (d 1.48) by portionwise addition, with vigorous stirring on a salt/ice - bath at -10° C. After stirring at this temperature for 2 min, the mixture was poured onto 50 ml of ice/water. The precipitate was filtered off, washed with water, a small amount of ethanol, and ether affording 0.48 g (92%) of the mononitro compound; m.p. >300° C.; IR (KBr): 1720cm-1, (C=0); 1H-NMR (DMSO-d6): 1.5-1.9 (m, 4H, 2×CH2), 2.5 - 3.0 (m, 4H, 2×CH2), 7.50 (s, 1H, H-5), 11.2 (broad s, 1H, 0H), 11.9 (broad s, 1H, 0H).

reactant | 7,8,9,10-Tetrahydro-2,3-dihydroxybenzo (f) quinoxaline | 2 mmol, 0.43 g | OC=1C(=NC=2C=CC3=C(C2N1)CCCC3)O | C12H12N2O2
reactant | nitric acid | 5 ml | [N+](=O)(O)[O-] | HNO3
product | 7,8,9,10-Tetrahydro-2,3-dihydroxy-6-nitrobenzo(f)quinoxaline | OC=1C(=NC=2C=C(C3=C(C2N1)CCCC3)[N+](=O)[O-])O | C12H11N3O4
